US06498165B1
2-[1,1-Diphenylmethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with aminodiphenylmethane according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 378.3 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.41 (br s, 1H); 8.24 (br s, 1H); 7.33 (m, 2H); 6.79 (s, 1H); 6.45 (br s, 1H); 6.29 (br s, 1H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | aminodiphenylmethane | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
product | 2-[1,1-Diphenylmethylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C24H19N5
